US04760083
3,3-Bis(2-pyridylmethyl)-1-phenylindolin-2-one dihydrochloride
8.2 g of 3,3-Bis(2-pyridylmethyl)-1-phenylindolin-2-one was converted to the dihydrochloride salt by dissolving it in 25 ml methylene chloride and adding 25 ml of 25% hydrochloric acid in ethanol. The solution was evaporated and the glassy residue was dissolved in 75 ml boiling acetone. Cooling to room temperature and trituration started crystallization. After sitting at room temperature for 6 hours, the mixture was kept at 0° overnight. The product was then filtered, washed with cold acetone and dried in a vacuum oven for 1 hour at 60° over Granusic to yield 8.55 g; m.p. 250°-251°. The product was recrystallized from isopropanol affording 8.29 g; m.p. 250°-251°.

reactant | 3,3-Bis(2-pyridylmethyl)-1-phenylindolin-2-one | 8.2 g | N1=C(C=CC=C1)CC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=NC=CC=C1 | C26H21N3O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 3,3-Bis(2-pyridylmethyl)-1-phenylindolin-2-one dihydrochloride | Cl.Cl.N1=C(C=CC=C1)CC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=NC=CC=C1 | InChI=1S/C26H21N3O.2ClH/c30-25-26(18-20-10-6-8-16-27-20,19-21-11-7-9-17-28-21)23-14-4-5-15-24(23)29(25)22-12-2-1-3-13-22;;/h1-17H,18-19H2;2*1H
